US08703784B2
A mixture of 3-(5-morpholino-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidin-7-ylamino)propanoic acid (19.8 mg, 0.047 mmoL) and PPA was heated at 125° C. for 2 h. The reaction was cooled to 0° C. and the PH was adjusted to 8 by the addition of NH4OH. Extraction with 20% iPrOH/CH2Cl2 (×3), concentration of dried organic layer and purification by prep-LC afforded 5-morpholino-3-(quinolin-3-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one. LCMS tR=2.79 Min (10 min run, UV254nm). Mass calculated for, M+ 400.1, observed LC/MS m/z 401.1 (M+H).

reactant | 3-(5-morpholino-3-(quinolin-3-yl)pyrazolo[1,5-a]pyrimidin-7-ylamino)propanoic acid | 19.8 mg | O1CCN(CC1)C1=NC=2N(C(=C1)NCCC(=O)O)N=CC2C=2C=NC1=CC=CC=C1C2 | C22H22N6O3
reactant | NH4OH | [NH4+].[OH-]
product | 5-morpholino-3-(quinolin-3-yl)-8,9-dihydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-6(7H)-one | O1CCN(CC1)C1=NC=2N(C3=C1C(CCN3)=O)N=CC2C=2C=NC3=CC=CC=C3C2 | C22H20N6O2
